US06528653B2
5,6-Dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide (25 mg, 0.14 mmol) was dissolved in a solution of 1% piperidine in 2-propanol (2 ml). 3-(4-Methoxyphenyl)-1H-pyrazole-4-carboxaldehyde (0.15 mmol, 28 mg) was added in one portion and the mixture heated at 75° C. for 1 hour. The reaction mixture was poured into an ice/water mixture (2 ml) and the precipitated solid was collected by filtration and washed with water to give 27 mg of (Z)-5,6-dihydro-5-oxo-4-[[3-(4-methoxyphenyl)-1H-pyrazol-4-yl]methylene]-4H-thieno [2,3-b]pyrrole-2-carboxamide as a brown solid. MS(ES): m/e 367 [M+H].

reactant | 5,6-Dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide | 0.14 mmol, 25 mg | O=C1CC2=C(N1)SC(=C2)C(=O)N | C7H6N2O2S
reactant | 3-(4-Methoxyphenyl)-1H-pyrazole-4-carboxaldehyde | 0.15 mmol, 28 mg | COC1=CC=C(C=C1)C1=NNC=C1C=O | C11H10N2O2
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
product | (Z)-5,6-dihydro-5-oxo-4-[[3-(4-methoxyphenyl)-1H-pyrazol-4-yl]methylene]-4H-thieno [2,3-b]pyrrole-2-carboxamide | 27 mg | O=C1\C(\C2=C(N1)SC(=C2)C(=O)N)=C/C=2C(=NNC2)C2=CC=C(C=C2)OC | C18H14N4O3S
